US03950333
Reaction of [(2-aminoethyl)thiomethyl]thiazole (from the dihydrobromide 20.2 g.) with N-cyano-N',S-dimethylisothiourea (7.75 g.) by a procedure similar to that described in Example 3(a) afforded N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylthio)ethyl]guanidine, m.p. 120°-122.5°, following chromatography on silica gel with acetonitrile as eluant, and recrystallisation from isopropyl alcohol. (Found: C, 42.3; H, 5.1; N, 27.2; S, 25.3. C9H13N5S2 requires: C, 42.3; H, 5.1; N, 27.4; S, 25.1).

reactant | [(2-aminoethyl)thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
reactant | N-cyano-N',S-dimethylisothiourea | 7.75 g | C(#N)NC(SC)=NC | C4H7N3S
product | N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC=1SC=CN1)NC | C9H13N5S2
